* Z:\home\aalmela\scm\git\utn\eaiii\2019\DetectoresFM\FosterSeeley\LTspice\Foster-Seeley-Simulation.asc
L1 0 N004 17.6µ
L3 N005 N001 4.4µ
C1 N004 0 12.57p
R0 N002 N006 60k
C0 N002 N006 .01µ
D1 N001 N002 D_ideal
D2 N007 0 D_ideal
C01 N006 0 .01µ
C2 N001 N007 13.3p
R01 N006 0 60k
L§RFC N005 N006 .1m
R1 N004 P001 1
C N004 N005 .001µ
R2 N001 N007 20k
L2 N007 N005 4.4µ
A1 N003 0 0 0 0 0 P001 0 MODULATOR space =10775000 mark =10625000
V1 N003 0 SINE(.5 0.1 5E3)
.model D D
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.dio
.model D_ideal D(Ron=0.1n Roff=1G Vfwd=0.0)
K2 L1 L3 .3
K3 L2 L3 .999
K1 L1 L2 .3
.tran 0 2m 1m
.backanno
.end
