* Z:\home\aalmela\scm\git\utn\eaiii\2019\Mezcladores\dual_simula.asc
B告d2a oa 0 I=(table(V(g2a), 0,1, 1,1e-3 ,4,10e-3, 10,10e-3))*V(g1)
R1 N003 0 1k
V2 g1 0 SINE(0 10u 11e6)
L1 N003 0 {L}
C3 N003 0 {C}
R1a g2a N001 1k
C1a g2a 0 15e-12
R1b g2b N001 1k
C1b g2b 0 15e-12
B告d2b ob 0 I=(table(V(g2b), 0,1, 1,1e-3 ,4,10e-3, 10,10e-3))*(-V(g1))
L2 N002 VDD {L} Rser=0
L3 VDD N005 {L} Rser=0
Vol1 N001 N004 SINE(0 2 10e6)
Vpol1 N004 0 2.5
Vpol2 VDD 0 20
B告da1 oa 0 I=2e-3*V(g2a)+4e-3
B告da2 ob 0 I=2e-3*V(g2b)+4e-3
R4 oa N002 1e-6
R5 ob N005 1e-6
.tran 0 14e-6 10e-6 uic
K12 L1 L2 1
K13 L1 L3 1
K23 L2 L3 1
.param L= 1.59e-05
.param C= 1.59e-09
.backanno
.end
