* Z:\home\aalmela\scm\git\utn\eaiii\2019\ModuladoresFM\LTspice\2n3819.asc
J1 N002 N003 N004 2N3819
V1 N001 0 PWL(0 0 1 10)
R2 N003 0 10
L1 N001 N002 100µ
V2 N004 N005 PWL(0 0 1 10) AC 100u
V3 N005 0 SINE(0 0 10) AC 100u
.model NJF NJF
.model PJF PJF
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.jft
.tran 1
;ac dec 1000 10e6 200e6
.backanno
.end
