* Z:\home\aalmela\scm\git\utn\eaiii\2019\ModuladoresFM\LTspice\armstrong.asc
R1 N004 N007 4.7k
R2 N005 N004 4.7K
C1 N005 N004 100nC
Ca1 N007 N006 10µC
V1 0 N008 2.5
V2 NC_01 0 PULSE(0 1 0 1p 1p 1m 2m)
XU1 N008 N004 N005 Vp Vn LTC2052
V3 Vp 0 5
V4 0 Vn 5
L1 vg N005 10µ
V5 N001 0 SINE(0 0.1 1.9231e+06)
Ca2 vg N001 10µC
C2 N002 vg 165.40e-12
B1 N002 0 I={Idss}*pow(( 1 - (V(vg)/({vc})) ),2)
L2 N002 0 8.2761e-05
C3 N002 0 8.0639e-11
R3 N003 0 10k
Ca3 N003 N002 10µ
R4 N005 0 1k
V6 N006 0 SINE(0 1 1e3) AC 1
.tran 10m
;ac dec 1000 10 10e3
.param Idss = 10e-3
.param vc = -5
.lib LTC2.LIB
.backanno
.end
