* Z:\home\aalmela\scm\git\utn\eaiii\2019\Redes_de_adaptacion\segundaentrega\spice\eje3.asc
RL1 ant 0 {RL}
Cg N001 0 {cg} Rser=0
L1 N001 0 {L} Rser=0
rg N001 0 {rg}
I1 0 N001 AC {ig}
C1 N001 ant {C1} Rser=0
C2 ant 0 {C2} Rser=0
rp N001 0 {rp}
I2 0 N002 AC {ig}
R1 N002 0 {rg}
R2 N002 0 {rg}
R3 N002 0 {rp}
.ac dec 1000000 3e6 5e6
.param RL  =  100.0 
.param C1 =  2.643e-10 
.param C2 =  2.083e-09 
.param L  =  6.4458e-06 
.param rp  =  16200.00 
.param rg  =  8100.00 
.param cg  =  1.00e-11 
.param ig  =  1.00e-05
.backanno
.end
