* Z:\home\aalmela\scm\git\utn\eaiii\2019\Redes_de_adaptacion\segundaentrega\spice\eje2para.asc
Rant N004 0 {rant}
C1 N001 N003 {C} Rser=0
L1 N001 N002 {L} Rser=0
rpc1 N003 0 {rpcs}
rpl Vant N002 {rpls}
R2 N001 0 {rg}
I1 0 N001 SINE(0 4 2e6) AC {ig}
Cant Vant N004 {cant}
;tran 0 40u 30u uic
.param rant  =  2.0 
.param cant  =  3.0e-11 
.param C =  7.797e-09 
.param rpcs  =  0.200 
.param L  =  2.1187e-04 
.param rpls  = 1.000 
.param rg  =  50.00 
.param ig  =  4.00
.tran 0 34u 30u uic
.backanno
.end
