* Z:\home\aalmela\scm\git\utn\eaiii\2019\proyecto\FiltroSintonia\filtro_Tee_tuning.asc
L1 N003 N004 {Lr}
L2 N004 N005 {Lr} Rpar={rpr}
L3 N004 N012 {Lc}
R1 N001 s 1k
C1 0 N001 10n
C2 0 N002 10n
R2 N002 s 1k
R3 N001 N008 10k
R4 N002 N009 10k
R5 N014 d 1k
C3 0 N014 10n
R6 N011 N014 10k
R7 N015 d 1k
C4 0 N015 10n
R8 N013 N015 10k
R9 N010 0 10k
R10 N007 0 10k
C5 N007 i 10n
C6 o N010 10n
R11 o 0 {rl}
R12 i N006 {rs}
V1 N006 0 AC 100u
V2 s 0 {V1}
V3 d 0 {V2}
XU1 N007 N008 SMVDIODE Cjo={Cjo1} M={M1} Vj={Vj1} R={Rs1} Ls={Ls1} Cp={Cp1}
XU2 N003 N008 SMVDIODE Cjo={Cjo1} M={M1} Vj={Vj1} R={Rs1} Ls={Ls1} Cp={Cp1}
XU3 N005 N009 SMVDIODE Cjo={Cjo1} M={M1} Vj={Vj1} R={Rs1} Ls={Ls1} Cp={Cp1}
XU4 N010 N009 SMVDIODE Cjo={Cjo1} M={M1} Vj={Vj1} R={Rs1} Ls={Ls1} Cp={Cp1}
XU5 N003 N011 SMVDIODE Cjo={Cjo2} M={M2} Vj={Vj2} R={Rs2} Ls={Ls2} Cp={Cp2}
XU6 0 N011 SMVDIODE Cjo={Cjo2} M={M2} Vj={Vj2} R={Rs2} Ls={Ls2} Cp={Cp2}
XU7 N005 N013 SMVDIODE Cjo={Cjo2} M={M2} Vj={Vj2} R={Rs2} Ls={Ls2} Cp={Cp2}
XU8 0 N013 SMVDIODE Cjo={Cjo2} M={M2} Vj={Vj2} R={Rs2} Ls={Ls2} Cp={Cp2}
R13 N004 N003 {rpr}
R14 N005 N004 {rpr}
R15 N012 0 {rpc}
.param Lc   =  8.12e-09
.param rpc =  0.1
.param Lr   =  2.73e-07
.param rpr =  6728.2
.param rs    =  50.000
.param rl    =  50.000
.param Cjo1  =  5.18e-11
.param M1    =  48.70
.param Vj1   =  73.60
.param Ls1   =  1.40e-09
.param Rs1    =  1.100
.param Cp1   =  2.70e-12
.param Cjo2  =  2.89e-11
.param M2    =  105.00
.param Vj2   =  190.00
.param Ls2   =  1.50e-09
.param Rs2    =  1.400
.param Cp2   =  2.20e-12
.ac dec 1000 40e6 240e6
;tran 0.1
* .param V1 =  1.743\n.param V2 =  2.651
* .param V1 =  2.588\n.param V2 =  3.851
.param V1 =  3.370
.param V2 =  5.128
.lib C:\Program Files\LTC\LTspiceXVII\lib\sym\MyComponents\smvdiode.cir
.backanno
.end
