* Z:\home\aalmela\scm\git\utn\eaiii\2019\proyecto\LNA\LTspice\LNABFP460.asc
XU1 N005 N003 0 0 BFP460
R1 N004 N003 1.8k
C1 N005 N004 330p
C2 N008 N005 330p
C3 N003 N007 330p
C4 0 N007 18p
L1 N008 o 39n
L2 i N007 100n
R2 N001 N003 47k
R3 N001 N005 68
R4 N002 N001 68
C5 N001 0 47n
C6 N002 0 1n
C7 N008 0 12p
R5 o 0 50
R6 i N006 50
V1 N006 0 SINE() AC 1u
V2 N002 0 2.8
.ac dec 1000 50e6 200e6
.lib InfineonRF.lib
.backanno
.end
